US04246409
1-(2',6'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one hydrochloride
To a suspension of 10.0 g. (39.0 m. mol) of 1-(2',6'-dimethylphenyl)-3-methylamidinourea hydrochloride in acrylonitrile (CH3CN) (50 ml.) is added 9.3 g. (78.0 m mol) of dimethylformamide dimethylacetal (DMF-DMA) and the resulting solution, in a bomb, is heated to 100°-105° C. for one hour. After cooling the reaction mixture is placed in a round bottom flask and concentrated under reduced pressure. The residue is partitioned between H2O and CHCl3 and the layers separated. The aqueous layer is extracted with CHCl3 (1×50 ml). The combined CHCl3 extracts are washed with H2O (1×50 ml) dried (MgSO4) and concentrated under reduced pressure. A small amount of the residue is triturated in hexane to give a white solid, having melting point 224. NMR and IR show the product to be identical with that of Example 3. The remainder of the residue is dissolved in MeOH and acidified with HCl/MeOH. The MeOH is removed under vacuum and the residue crystallized from CH3CN to give 6.8 g. (65%) of 1-(2',60'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one hydrochloride, melting point 234°-8° C. (decomposition).

reactant | 1-(2',6'-dimethylphenyl)-3-methylamidinourea hydrochloride | Cl.CC1=C(C(=CC=C1)C)NC(=O)NC(NC)=N
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | HCl MeOH | Cl.CO
solvent | acrylonitrile | 50 ml | C(C=C)#N | C3H3N
solvent | MeOH | CO | CH4O
product | 1-(2',6'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one hydrochloride | Cl.CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NC)=O | InChI=1S/C12H14N4O.ClH/c1-8-5-4-6-9(2)10(8)16-7-14-11(13-3)15-12(16)17;/h4-7H,1-3H3,(H,13,15,17);1H
